US06566385B2
Step F: Preparation of 14-Amino-14-(3-methyl-3H-imidazol-4-yl)-2,9-dioxa-tricyclo[13.3.1.13,7]eicosa-1(18),3,5,7(20),15(19),16-hexaene-18-carbonitrile
4-[1-Amino-5-(3-hydroxy-benzyloxy)-1-(3-methyl-3H-imidazol-4-yl)-pentyl]-2-fluoro-benzonitrile (0.214 g, 0.443 mmol) was dissolved in DMF (44 mL) at ambient temperature and treated with Cs2CO3 (0.577 g, 1.77 mmol). After 18 h, the reaction mixture was concentrated to dryness, and partitioned between a minimum amount of H2O and CH2Cl2. The aqueous layer was washed with CH2Cl2 (2×), the organics combined, dried (MgSO4), filtered and concentrated to give the title compound after purification on the ISCO Combiflash eluting with 1-3% MeOH/CH2Cl2w/NH4OH. MS (M+1) 389.

reactant | 4-[1-Amino-5-(3-hydroxy-benzyloxy)-1-(3-methyl-3H-imidazol-4-yl)-pentyl]-2-fluoro-benzonitrile | 0.443 mmol, 0.214 g | NC(CCCCOCC1=CC(=CC=C1)O)(C=1N(C=NC1)C)C1=CC(=C(C#N)C=C1)F | C23H25FN4O2
reactant | Cs2CO3 | 1.77 mmol, 0.577 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 44 mL | CN(C)C=O | C3H7NO
product | 14-Amino-14-(3-methyl-3H-imidazol-4-yl)-2,9-dioxa-tricyclo[13.3.1.13,7]eicosa-1(18),3,5,7(20),15(19),16-hexaene-18-carbonitrile | NC1(CCCCOCC=2C=CC=C(OC3=C(C=CC1=C3)C#N)C2)C=2N(C=NC2)C | C23H24N4O2
